US07291631B2
A mixture of 3-benzyl-3-aza-bicyclo[3.2.1]octan-8-one (0.560 g, 2.60 mmol) (Lowe, J. A. et al. J. Med. Chem. 1994, 37, 2831-2840), NH4OAc (2.3 g, 30 mmol) and NaBH3CN (0.245 g, 3.90 mmol) in MeOH (15 mL) was stirred and heated at reflux for 72 h. The mixture was cooled to room temperature, and the solvent was removed. Aqueous NaOH (1 N, 10 mL) was added, and the aqueous suspension was extracted with CH2Cl2 (3×30 mL). The combined extract was washed with water (30 mL) and dried over anhydrous Na2SO4. After filtration the solvent was removed by evaporation under vacuum, and the residue was dissolved in dry CH2Cl2 (30 mL). Et3N (3 mL) and Boc2O (0.872 g, 4.00 mmol) were added, and the mixture was stirred for 16 h. Water (30 mL) was then added, and the mixture was extracted with CH2Cl2 (4×30 mL). The organic extracts were combined and dried over anhydrous Na2SO4. After filtration the solvent was removed by evaporation under vacuum, and the residue was purified by flash chromatography on a silica gel column (1:1 CH2Cl2/hexanes), affording an impure solid mainly containing (3-benzyl-3-aza-bicyclo[3.2.1]oct-8-yl)-carbamic acid tert-butyl ester. A mixture of the solid and Pd/C (10% in wt, 0.20 g, 0.188 mmol) in MeOH/EtOAc (40 mL, 3:1) was stirred under H2 atmosphere (1 atm) overnight. CH2Cl2 (20 mL) was then added, and the mixture was filtered through a celite cake. The filtrate was concentrated by evaporation under vacuum, and the residue was purified by flash chromatography on a silica gel column (100:5:1 CH2Cl2/MeOH/NH4OH), affording (3-aza-bicyclo[3.2.1]oct-8-yl)-carbamic acid tert-butyl ester as a white solid (0.277 g, 50%). 1H NMR (CDCl3) δ 1.45 (s, 9H), 1.62-1.68 (m, 2H), 1.81-1.85 (m, 2H), 2.02 (s, br. 2H), 2.49-2.55 (m, 2H), 2.96-3.01 (m, 2H), 3.67-3.80 (m, 1H), 5.04 (s, br. 1H).

reactant | 3-benzyl-3-aza-bicyclo[3.2.1]octan-8-one | 2.60 mmol, 0.560 g | C(C1=CC=CC=C1)N1CC2CCC(C1)C2=O | C14H17NO
reactant | NaBH3CN | 3.90 mmol, 0.245 g | [BH3-]C#N.[Na+]
reactant | Et3N | 3 mL | CCN(CC)CC | C6H15N
reactant | Boc2O | 4.00 mmol, 0.872 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 15 mL | CO | CH4O
solvent | Water | 30 mL | O | H2O
product | (3-benzyl-3-aza-bicyclo[3.2.1]oct-8-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1C2CN(CC1CC2)CC2=CC=CC=C2)=O | C19H28N2O2
